US04346087
Into a four-necked flask provided with a stirrer, thermometer, gas inlet tube, and water measuring tube connected with a reflux condenser, were charged 228.1 g (1 mole) of N-dodecylethylenediamine and 130.1 g (1 mole) of ethyl acetoacetate. While bubbling nitrogen gas, the flask was heated at 150° to 160° C. to distill off 18 g of water and 46 g of ethanol, and then 4-dodecyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one in slight yellow liquid was obtained.

reactant | N-dodecylethylenediamine | 1 mole, 228.1 g | C(CCCCCCCCCCC)NCCN | C14H32N2
reactant | ethyl acetoacetate | 1 mole, 130.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 4-dodecyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCC)N1CCN=C(CC1=O)C | C18H34N2O
